US07592362B2
1-(2,3-Dimethylphenyl)propan-1-ol
To a solution of 2,3-dimethylbenzaldehyde (1.0 g, 7.5 mmol) in anhydrous tetrahydrofuran (50 ml), at −78° C. and under nitrogen, was added ethyllithium (0.5M in benzene:cyclohexane 9:1, 14.9 ml, 7.5 mmol), dropwise via syringe. The reaction mixture was stirred at −78° C. for 30 min and then poured into ice cold hydrochloric acid (2N, 20 ml). The mixture was extracted with ethyl acetate (2×50 ml) and the combined extracts were dried (MgSO4) and concentrated in vacuo to give the title compound (1.22 g).

reactant | 2,3-dimethylbenzaldehyde | 7.5 mmol, 1.0 g | CC1=C(C=O)C=CC=C1C | C9H10O
reactant | ethyllithium | 7.5 mmol, 0.5M, 14.9 ml | C(C)[Li]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2,3-Dimethylphenyl)propan-1-ol | 1.22 g | CC1=C(C=CC=C1C)C(CC)O | C11H16O
